US05521170
To a solution of naphthalene (15.5 g) in dimethoxyethane (100 ml) was added sodium metal (2.79 g) in portions at 0° C. and the solution was stirred at the same temperature for 1 hour. The naphthilide was added to a solution of 7-chloro -5-ethoxycarbonylmethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-1-benzazepine (9.89 g) in dimethoxyethane (400 ml) at -60° C. and the solution was stirred at the same temperature for 30 minutes. The reaction mixture was quenched with water and the solution was extracted with chloroform. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo to give an oil and the crude oil was purified by silica gel column to give 7-chloro-5-ethoxycarbonylmethyl -2,3,4,5-tetrahydro-1H-1-benzazepine (2.31 g).

reactant | naphthalene | 15.5 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | sodium | 2.79 g | [Na] | Na
reactant | 7-chloro -5-ethoxycarbonylmethyl-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-1-benzazepine | 9.89 g | ClC=1C=CC2=C(C(CCCN2S(=O)(=O)C2=CC=C(C=C2)C)CC(=O)OCC)C1 | C21H24ClNO4S
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 400 ml | C(OC)COC | C4H10O2
product | 7-chloro-5-ethoxycarbonylmethyl -2,3,4,5-tetrahydro-1H-1-benzazepine | 2.31 g | ClC=1C=CC2=C(C(CCCN2)CC(=O)OCC)C1 | C14H18ClNO2
